US07820654B2
Step (ii). Synthesis of [4-(3-methanesulfonyl-phenyl)-6-morpholin-4-yl-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine
[4-Chloro-6-(3-methanesulfonyl-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine (0.14 g, 0.3 mmol) was reacted with morpholine (0.09 mL) in a solvent n-butanol (7 mL) at reflux temperature for 12 hours. Solid was filtered and dried to afford the desired compound.

reactant | [4-Chloro-6-(3-methanesulfonyl-phenyl)-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine | 0.3 mmol, 0.14 g | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)S(=O)(=O)C)NC1=CC=C(C=C1)OC(F)(F)F | C18H13ClF3N3O3S
reactant | morpholine | 0.09 mL | N1CCOCC1 | C4H9NO
solvent | n-butanol | 7 mL | C(CCC)O | C4H10O
product | [4-(3-methanesulfonyl-phenyl)-6-morpholin-4-yl-pyrimidin-2-yl]-(4-trifluoromethoxy-phenyl)-amine | CS(=O)(=O)C=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCOCC1)NC1=CC=C(C=C1)OC(F)(F)F | C22H21F3N4O4S
